US07994185B2
Step E: N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-oxazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 52, Step B using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-oxazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (94 mg, 0.179 mmol) and ammonium hydroxide (5 mL), the title compound was obtained as a white solid (30 mg, 33%). 1H-NMR (DMSO-d6): δ ppm 10.34 (brs, 1H), 8.18-8.19 (d, J=5.2 Hz, 1H), 7.65 (brs, 1H), 7.30-7.34 (t, J=7.4 Hz, 2H), 7.21-7.24 (m, 3H), 6.56 (brs, 2H), 6.45 (d, J=5.2 Hz, 1H), 1.40 (s, 9H); MS: 504 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-oxazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.179 mmol, 94 mg | ClC1=NC=CC(=N1)C1=C(N=C(O1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18ClF3N4O3S
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-oxazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(O1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H20F3N5O3S
